US03954757
A solution of 9.36 g of indole in 60 ml methanol is added dropwise to a well-stirred solution of 40 g potassium iodide and 20.3 g of iodine in 120 ml of water at room temperature. This is reacted with a solution of 10.6 g of 2-mercapto-1,4,5,6-tetrahydro-5-pyrimidinol in 1800 ml of 50% aqueous methanol. The reaction mixture is stirred at room temperature for 2 hours and worked up in the manner, described under Example 1 to yield 3-(5-hydroxy-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide which melts at 228°-229° (with decomposition) after recrystallization from a mixture of methanol, ethyl acetate and ether.

reactant | indole | 9.36 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | potassium iodide | 40 g | [I-].[K+]
reactant | iodine | 20.3 g | II | I2
reactant | 2-mercapto-1,4,5,6-tetrahydro-5-pyrimidinol | 10.6 g | SC=1NCC(CN1)O | C4H8N2OS
solvent | methanol | 60 ml | CO | CH4O
solvent | water | 120 ml | O | H2O
solvent | methanol | 1800 ml | CO | CH4O
product | 3-(5-hydroxy-1,4,5,6-tetrahydro-2-pyrimidinylthio)-indole hydriodide | I.OC1CN=C(NC1)SC1=CNC2=CC=CC=C12 | InChI=1S/C12H13N3OS.HI/c16-8-5-14-12(15-6-8)17-11-7-13-10-4-2-1-3-9(10)11;/h1-4,7-8,13,16H,5-6H2,(H,14,15);1H
